US08134007B2
2-[5-Chloro-2-(2,2,2-trifluoroethoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane
To a solution of the 2-bromo-4-chloro-1-(2,2,2-trifluoroethoxy)-benzene (Preparation 79, 0.110 g, 0.38 mmol), potassium acetate (0.336 g, 3.42 mmol) and Bis(pinacolato)diboron (0.290 g, 1.14 mmol) in degassed dimethoxyethane (4.5 ml) was added 1,1′-[bis(diphenylphosphino)-ferrocene]dichloropalladium (II) (0.009 g, 0.011 mmol). The reaction mixture was sealed into a 5 ml microwave vial before being irradiated in a microwave at 120° C. for 20 minutes with stirring. The tube was then allowed to cool to room temperature before the mixture was removed from the vessel and filtered through a pad of Arbocel™. This was then washed with dichloromethane (50 ml) before the collected solvent washings were concentrated in vacuo to afford crude title compound as a brown oil (128 mg, 100%). Material was taken on with no further purification.

reactant | 2-bromo-4-chloro-1-(2,2,2-trifluoroethoxy)-benzene | 0.38 mmol, 0.110 g | BrC1=C(C=CC(=C1)Cl)OCC(F)(F)F | C8H5BrClF3O
reactant | potassium acetate | 3.42 mmol, 0.336 g | C(C)(=O)[O-].[K+]
reactant | Bis(pinacolato)diboron | 1.14 mmol, 0.290 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | dimethoxyethane | 4.5 ml | C(OC)COC | C4H10O2
product | 2-[5-Chloro-2-(2,2,2-trifluoroethoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane | 128 mg, 100% | ClC=1C=CC(=C(C1)B1OC(C(O1)(C)C)(C)C)OCC(F)(F)F | C14H17BClF3O3
